US04093736
[I; Ar is 3-HOC6H4, R0 is H, R' and R" are CH3CH2CO, Y is CH2CH2CH2CH2 ] was prepared by catalytic hydrogenation of 4-[6-(3-benzyloxyphenyl)-3-hexenyl]-3,5-heptanedione with palladium-on-carbon. The product was chromatographed on silica gel and eluted with ethyl acetate-chloroform 1:9 to give 4-[6-(3-hydroxyphenyl)hexyl]-3,5-heptanedione as a colorless oil.

reactant | 4-[6-(3-benzyloxyphenyl)-3-hexenyl]-3,5-heptanedione | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCC=CCCC(C(CC)=O)C(CC)=O | C26H32O3
catalyst | palladium-on-carbon | [Pd] | Pd
product | 4-[6-(3-hydroxyphenyl)hexyl]-3,5-heptanedione | OC=1C=C(C=CC1)CCCCCCC(C(CC)=O)C(CC)=O | C19H28O3
